US07452892B2
Preparation of 7-(4-chlorophenyl)-8-(4-(hydroxymethyl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
A suspension of 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (48 mg, 0.10 mmol), 4-(hydroxymethyl)phenylboronic acid (46 mg, 0.30 mmol), K3PO4 (63 mg, 0.30 mmol), and Pd(dppf)Cl2.CH2Cl2 (20 mg, 0.025 mmol) in THF (1 mL) at room temperature was degassed by bubbling with argon for 1 min. This was then stirred and heated at 100° C. in a sealed vessel for 3 h. Analysis by HPLC/MS indicated that starting material had been consumed. After the reaction mixture was cooled to room temperature, the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography eluted with ethyl acetate-hexanes. This provided the title compound (6.7 mg) as a light yellow solid. HPLC/MS (methanol-water with 10 mM NH4OAc): retention time=3.53 min, [M+H]30 =512.

reactant | 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.10 mmol, 48 mg | BrC=1C=2N(C=NC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C18H10BrClF3N5O
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.30 mmol, 46 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K3PO4 | 0.30 mmol, 63 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.025 mmol, 20 mg | C(Cl)Cl | CH2Cl2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-chlorophenyl)-8-(4-(hydroxymethyl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 6.7 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)CO | C25H17ClF3N5O2
